US08975282B2
Step 5) phenyl (4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamate
To a suspension of N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (0.25 g, 0.6 mmol) in DCM (20 mL) was added pyridine (0.65 mL, 6 mmol). The suspention was cooled to 0° C., followed by slowly addition of a solution of phenylcarbonochloridate (98 mg, 0.63 mmol) in DCM (5 mL). The reaction was stirred at rt for 2 hours, diluted with DCM (20 mL), and then washed with water (25 mL×2), followed by washing with brine (25 mL). The organic solution was dried over anhydrous Na2SO4, then concentrated in vacuo, and the residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=100/1) to give the title compound as a white solid (134 mg, 42%).

reactant | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.6 mmol, 0.25 g | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
reactant | pyridine | 6 mmol, 0.65 mL | N1=CC=CC=C1 | C5H5N
reactant | phenylcarbonochloridate | 0.63 mmol, 98 mg | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | phenyl (4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)pyridin-2-yl)carbamate | 134 mg, 42% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)NC(OC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C29H24N6O5
